US07238808B2
A mixture of 5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidin-7-ol (4.8 g, 19.5 mmol), phosphorous oxychloride (7.2 mL, 78 mmol), and N,N-dimethylaniline (0.87 mL, 7.0 mmol) was stirred at 100° C. for 2 h. The mixture was evaporated in vacuo and the residue was partitioned between water and dichloromethane. The organic phase was washed with water, dried (Na2SO4), and evaporated in vacuo. The remaining solid was crystallized from EtOAc to give 7-chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine (3.50 g, 66%) as a yellow solid; mp 151–153° C.

reactant | 5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidin-7-ol | 19.5 mmol, 4.8 g | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)O)N=CC2 | C12H8ClN3O
reactant | phosphorous oxychloride | 78 mmol, 7.2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 7.0 mmol, 0.87 mL | CN(C1=CC=CC=C1)C | C8H11N
product | 7-chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine | 3.50 g, 66% | ClC1=CC(=NC=2N1N=CC2)C2=CC=C(C=C2)Cl | C12H7Cl2N3
